### PR TITLE
[Merged by Bors] - feat: define `WithTopology` structure

### PR DESCRIPTION
**Pull request by urkud**
`WithTopology X t` is a 1-field structure wrapper around `X`
with topology coinduced from `t`.

Define the structure, transfer some instances to it,
and port `CofiniteTopology` to use it.

### AI usage disclosure

First draft of `Topology/WithTopology.lean` was written by Gemini.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Defs/Induced.lean [hunk 1]
```diff
@@ -88,8 +88,20 @@ def coinduced (f : X → Y) (t : TopologicalSpace X) : TopologicalSpace Y where
...
   isOpen_sUnion s h := by simpa only [preimage_sUnion] using isOpen_biUnion h
 
+instance WithTopology.instTopologicalSpace (X : Type*) (t : TopologicalSpace X) :
+    TopologicalSpace (WithTopology X t) :=
+  .coinduced (WithTopology.toTopology t) t
+
 end TopologicalSpace
 
+/-- `WithTopology.ofTopology` and `WithTopology.toTopology` as an equivalence. -/
+@[simps apply symm_apply]
```
Comment (urkud) [inline Mathlib/Topology/Defs/Induced.lean]:
```suggestion
@[simps]
```

**Comment by urkud** [comment]
I need a "with discrete topology" wrapper for the upcoming PR on Cauchy theorem. We have several wrappers that override topology, so why not introduce a unified `WithTopology` wrapper?

File: Mathlib/Topology/Defs/Induced.lean [hunk 2]
```diff
@@ -88,8 +88,20 @@ def coinduced (f : X → Y) (t : TopologicalSpace X) : TopologicalSpace Y where
   isOpen_inter _ _ h₁ h₂ := h₁.inter h₂
   isOpen_sUnion s h := by simpa only [preimage_sUnion] using isOpen_biUnion h
 
+instance WithTopology.instTopologicalSpace (X : Type*) (t : TopologicalSpace X) :
+    TopologicalSpace (WithTopology X t) :=
+  .coinduced (WithTopology.toTopology t) t
+
```
Comment (plp127) [inline Mathlib/Topology/Defs/Induced.lean]: Can you add a lemma characterizing the topology?

**Comment by SnirBroshi** [comment]
> I need a "with discrete topology" wrapper for the upcoming PR on Cauchy theorem. We have several wrappers that override topology, so why not introduce a unified `WithTopology` wrapper?

Very cool, see also [#Is there code for X? > DiscreteTopology over the reals @ 💬](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/DiscreteTopology.20over.20the.20reals/near/563928809)
Do you plan to add an abbrev for `WithTopology · ⊥` or spell it out?

**Comment by urkud** [comment]
> > I need a "with discrete topology" wrapper for the upcoming PR on Cauchy theorem. We have several wrappers that override topology, so why not introduce a unified `WithTopology` wrapper?
> 
> Very cool, see also [#Is there code for X? > DiscreteTopology over the reals @ 💬](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/DiscreteTopology.20over.20the.20reals/near/563928809) Do you plan to add an abbrev for `WithTopology · ⊥` or spell it out?

I wasn't going to introduce a name for that, but we can have an `abbrev`.

File: Mathlib/Topology/WithTopology.lean [hunk 3]
```diff
@@ -0,0 +1,158 @@
...
+
+## Implementation notes
+
+The pattern here is the same one as is used by `Lex` for order structures
+and `WithLp` for metric structures.
+
+## AI usage disclosure
+
+The first draft of this file was written by Gemini CLI.
+It was thoroughly reviewed by me (Yury Kudryashov) before submitting a PR.
```
Comment (SnirBroshi) [inline Mathlib/Topology/WithTopology.lean]: We're putting disclosures in the source now?

File: Mathlib/Topology/Defs/Induced.lean [hunk 4]
```diff
@@ -90,6 +90,26 @@ def coinduced (f : X → Y) (t : TopologicalSpace X) : TopologicalSpace Y where
...
 
+namespace WithTopology
+
+instance instTopologicalSpace (X : Type*) (t : TopologicalSpace X) :
+    TopologicalSpace (WithTopology X t) :=
+  .coinduced (WithTopology.toTopology t) t
+
+lemma topology_eq_coinduced (X : Type*) (t : TopologicalSpace X) :
+    instTopologicalSpace X t = .coinduced (.toTopology t) t :=
+  rfl
```
Comment (j-loreaux) [inline Mathlib/Topology/Defs/Induced.lean:101]: I realize we have to pick one of these to be `rfl` (i.e., `coinduced` or `induced`). Do you have reasons to pick `coinduced` over `induced`? Either way, please add `instTopologicalSpace X t = .induced (.ofTopology) t` (or whatever is needed to make it typecheck).

You should be able to prove it with [Equiv.induced_symm](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Order.html#Equiv.induced_symm)

File: Mathlib/Topology/Order.lean [hunk 5]
```diff
@@ -516,6 +519,10 @@ theorem Equiv.coinduced_symm {α β : Type*} (e : α ≃ β) :
     TopologicalSpace.coinduced e.symm = TopologicalSpace.induced e :=
   e.symm.induced_symm.symm
 
+lemma WithTopology.topology_eq_induced {X : Type*} (t : TopologicalSpace X) :
+    instTopologicalSpace X t = .induced (ofTopology t) t :=
+  congrFun (WithTopology.equiv X t).coinduced_symm t
+
```
Comment (j-loreaux) [inline Mathlib/Topology/Order.lean:524]: ah, I see it's here. Does it have to live so far away?

File: Mathlib/Topology/WithTopology.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Topology/WithTopology.lean]: indeed, this seems strange to me too

File: Mathlib/Topology/WithTopology.lean [hunk 6]
```diff
@@ -0,0 +1,158 @@
...
+instance [Fintype X] : Fintype (WithTopology X t) :=
+  .ofBijective (.toTopology t) (toTopology_bijective t)
+
+deriving instance BEq, DecidableEq for WithTopology
+
+instance [BEq X] [ReflBEq X] : ReflBEq (WithTopology X t) where
+  rfl {x} := BEq.refl x.ofTopology
+
+instance [BEq X] [LawfulBEq X] : LawfulBEq (WithTopology X t) where
+  eq_of_beq h := ofTopology_injective _ <| eq_of_beq h
```
Comment (j-loreaux) [inline Mathlib/Topology/WithTopology.lean]: Do we really need `BEq`?

File: Mathlib/Topology/WithTopology.lean [hunk 7]
```diff
@@ -0,0 +1,158 @@
...
+  (image_toTopology t s).symm
+
+/-!
+### Instance transfers
+
+In this section we transfer some instances from `X` to `WithTopology X t`.
+-/
+
+instance [Nonempty X] : Nonempty (WithTopology X t) :=
+  (WithTopology.equiv X t).nonempty
```
Comment (j-loreaux) [inline Mathlib/Topology/WithTopology.lean:89]: I wonder, is it possible to teach `deriving` about doing this for 1-field structures as opposed to `def`s?

File: Mathlib/Topology/WithTopology.lean (hunk 3 above)
Comment (urkud) [reply Mathlib/Topology/WithTopology.lean]: I don't know. I've missed most of the discussion about AI policy. I know that some maintainers don't want to review anything AI-related, so I added a disclosure. Clearly, I can quickly remove it, if needed.

**Review by j-loreaux — COMMENTED** [review]
How did you decide which instances to transfer? For example, I noticed you didn't transfer anything from the algebra hierarchy, but you transferred quite a bit of order classes.

File: Mathlib/Topology/Defs/Basic.lean [hunk 8]
```diff
@@ -227,3 +227,22 @@ Formulated here when the source space is ℕ.
...
 class BaireSpace (X : Type*) [TopologicalSpace X] : Prop where
   baire_property : ∀ f : ℕ → Set X, (∀ n, IsOpen (f n)) → (∀ n, Dense (f n)) → Dense (⋂ n, f n)
+
+/-- A one-field structure wrapper for `X` with the topology coinduced from `t`. -/
+@[ext]
+structure WithTopology (X : Type*) (t : TopologicalSpace X) where
+  /-- Converts an element of `X` to an element of `WithTopology X t`. -/
+  toTopology (t) ::
+  /-- Converts an element of `WithTopology X t` to an element of `X`. -/
+  ofTopology (t) : X
```
Comment (eric-wieser) [inline Mathlib/Topology/Defs/Basic.lean]: Is it useful to have `t` explicit on this one?

File: Mathlib/Topology/WithTopology.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Topology/WithTopology.lean]: Yes, I think it only belongs in the PR description

**Review by eric-wieser — COMMENTED** [review]
Could you add whichever of the `DiscreteTopology`/`IndiscreteTopology`/`NontrivialTopology` instances make sense?

File: Mathlib/Topology/Defs/Induced.lean (hunk 4 above)
Comment (urkud) [reply Mathlib/Topology/Defs/Induced.lean:101]: It's in `Topology/Order`.

File: Mathlib/Topology/Order.lean (hunk 5 above)
Comment (urkud) [reply Mathlib/Topology/Order.lean:524]: `Equiv.coinduced_symm` is proved here.

File: Mathlib/Topology/WithTopology.lean (hunk 6 above)
Comment (urkud) [reply Mathlib/Topology/WithTopology.lean]: Why not?

File: Mathlib/Topology/WithTopology.lean (hunk 7 above)
Comment (urkud) [reply Mathlib/Topology/WithTopology.lean:89]: This looks like a task for a separate PR.

File: Mathlib/Topology/Defs/Basic.lean (hunk 8 above)
Comment (urkud) [reply Mathlib/Topology/Defs/Basic.lean]: I thought I copied this from `WithLp`, but now I see that `WithLp.ofLp` uses `{p}`. I'll fix it.

**Comment by urkud** [comment]
> How did you decide which instances to transfer? For example, I noticed you didn't transfer anything from the algebra hierarchy, but you transferred quite a bit of order classes.

Algebra hierarchy isn't available in that file. I have a not-yet-ready-for-review file `Topology/Algebra/WithTopology` with `Monoid` etc.

File: Mathlib/Topology/Defs/Induced.lean (hunk 4 above)
Comment (plp127) [reply Mathlib/Topology/Defs/Induced.lean:101]: > Do you have reasons to pick `coinduced` over `induced`?

Having it be the coinduced topology is nicer because it also gives you `IsOpen s ↔ IsOpen {x | toTopology t x ∈ s}` to be `rfl`

File: Mathlib/Topology/WithTopology.lean (hunk 6 above)
Comment (j-loreaux) [reply Mathlib/Topology/WithTopology.lean]: Because I suspect that the intersection of the types `α` for which we have a `BEq α` instance and also have a topology for which we may want `WithTopology α t` is likely empty. In that case, these unnecessarily clutter type class synthesis (admittedly, the performance impact is almost certainly negligible).

**Review by j-loreaux — COMMENTED** [review]
If you really want to keep the `BEq`-related instances, I won't stop you, but see my reply above.

bors d+

**Comment by urkud** [comment]
bors merge
